US08309650B2
Synthesis of acrylic acid 6-carbazol-9-yl-hexyl ester)
To a 500 ml three-neck round bottom flask was added 33 g. of 6-carbazol-9-yl-hexan-1-ol, 170 g. toluene, 2.2 g. PTSA, 10.7 g. acrylic acid and 0.07 g. hydroquinone monomethyl ether (MEHQ). The mixture was heated to reflux and the water was removed by azeotropic distillation using a Dean-Stark trap. After five hours of reflux, 1 gram additional acrylic acid was added and the mixture heated for one additional hour. The reaction mixture was cooled to room temperature, washed with 100 g 5% HCl in water, then 100 g. 10% sodium carbonate in water, then 100 g. of saturated brine. The solvent was removed on a rotary evaporator.

reactant | 6-carbazol-9-yl-hexan-1-ol | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCCCCO | C18H21NO
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | acrylic acid 6-carbazol-9-yl-hexyl ester | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCCCCOC(C=C)=O | C21H23NO2
